US06777418B2
A solution of 0.537 g (1.82 mmol) of 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde, 0.579 g (5.46 mmol) of methyl vinyl sulfone, 0.191 g (0.27 mmol) of tetrakis(triphenylphosphine) palladium and 5.23 g (51.7 mmol) of triethylamine in 12 ml dimethylformamide was heated to 100° C. under argon for 5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The crude material was purified by flash chromatography (elution with 25% ethyl acetate/hexane) to afford 0.359 g (62%) of 3-(2-methylsulfonylvinyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde (M+1=321).

reactant | 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 1.82 mmol, 0.537 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C15H19BrO
reactant | methyl vinyl sulfone | 5.46 mmol, 0.579 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | triethylamine | 51.7 mmol, 5.23 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium | 0.27 mmol, 0.191 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2-methylsulfonylvinyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 0.359 g, 62% | CS(=O)(=O)C=CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C18H24O3S
